US08207134B2
6) Synthesis of (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-chloromethyl-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran]
To a solution of (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3,3′,4,4′,5′,6′-hexahydro-8-hydroxymethyl-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] (72 mg, 0.10 mmol) in dichloromethane (1 mL) were added carbon tetrachloride (48 μL, 0.5 mmol) and triphenylphosphine (131 mg, 0.5 mmol). The resultant solution was then stirred for 3 hours at room temperature. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:2)), to thereby obtain the titled compound (42 mg, 48%).

reactant | (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3,3′,4,4′,5′,6′-hexahydro-8-hydroxymethyl-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] | 0.10 mmol, 72 mg | C(C1=CC=CC=C1)O[C@H]1[C@@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCC=1C3=CC=CC(=C3SC12)CO | C45H44O7S
reactant | carbon tetrachloride | 0.5 mmol, 48 μL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 0.5 mmol, 131 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-chloromethyl-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] | 42 mg, 48% | C(C1=CC=CC=C1)O[C@H]1[C@@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCC=1C3=CC=CC(=C3SC12)CCl | C45H43ClO6S
